US03978086
To a flask equipped with a stirrer and condenser are charged 40 g. of 2-benzoylamino-4,5-methylenedioxybenzophenone, 150 ml. of ethanol and 100 ml. of 50% sodium hydroxide. The mixture is stirred and refluxed for 2 hours. The solution is treated with 400 ml. of water and the resulting solid is filtered off to give 2-amino-4,5-methylenedioxybenzophenone m.p. 160°-161°C.

reactant | 2-benzoylamino-4,5-methylenedioxybenzophenone | C(C1=CC=CC=C1)(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C2C(=C1)OCO2 | C21H15NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4,5-methylenedioxybenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=C2C(=C1)OCO2 | C14H11NO3
